US04309443
N-{2-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)ethyl}-2-hydroxy-2-phenylethanamine
This was prepared in an identical manner to the compound described in Example 13 using phenylglyoxal monohydrate (1.50 g) and 2-{4-(2-carbomethoxy-1-methylethenyl) phenyl} ethanamine (2.19 g). The title compound (1.18 g) m.p. 120°-125° C. (benzene-hexane) was obtained after chromatography on Kieselgel 60 eluting with 1% methanol-chloroform. τ (CDCl3) 7.5 (3H, d, J=1.5 Hz), 7.5 (2H, m), 7.2 (6H, m), 6.3 (3H, s), 5.29 (1H, dd), 3.87 (1H, q, J=1.5 Hz), 2.85 (2H, d, J=9 Hz), 2.7 (5H, s), 2.6 (2H, d, J=9 Hz).

reactant | phenylglyoxal monohydrate | 1.50 g | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 2-{4-(2-carbomethoxy-1-methylethenyl) phenyl} ethanamine | 2.19 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CCN | C13H17NO2
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | N-{2-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)ethyl}-2-hydroxy-2-phenylethanamine | 1.18 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CCNCC(C1=CC=CC=C1)O | C21H25NO3
